US05614530
K2CO3 (13.94 g, 0.101 mol) was dissolved in water (67 ml) and then 2-iodo-4-methoxybenzoic acid (25.3 g, 0. 091 mol) was added, followed by 5-amino-1-ethylpyrazole (11.2 g, 0.101 mol) and finally copper (2.7 g). The reaction mixture was refluxed for 20 hours, cooled to room temperature and then water (350 ml) was added and the mixture was refluxed for 0.75 hours. The reaction mixture was cooled, and the product was collected by filtration, recrystallized from ethanol, and dried in an oven at 40° C. to afford 13.37 g (56%) of N-(1-ethylpyrazol-5-yl) -4-methoxyanthranilic acid, m.p. 130°-135° C.

reactant | K2CO3 | 0.101 mol, 13.94 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-iodo-4-methoxybenzoic acid | 25.3 g | IC1=C(C(=O)O)C=CC(=C1)OC | C8H7IO3
reactant | 5-amino-1-ethylpyrazole | 0.101 mol, 11.2 g | NC1=CC=NN1CC | C5H9N3
solvent | water | 67 ml | O | H2O
catalyst | copper | 2.7 g | [Cu] | Cu
solvent | water | 350 ml | O | H2O
product | N-(1-ethylpyrazol-5-yl) -4-methoxyanthranilic acid | 13.37 g, 56% | C(C)N1N=CC=C1NC=1C(C(=O)O)=CC=C(C1)OC | C13H15N3O3
